US07410988B2
N-(4-(2,3-Dihydrobenzo[b][1,4]dioxin-6-yl)thiazol-2-yl)-N-(3-morpholinopropyl)thiophene-2-carboxamide
A mixture of 3,4-(ethylenedioxy)phenacyl bromide (77 mg, 0.3 mmol) and (3-morpholin-4-yl-propyl)-thiourea (61 mg, 0.3 mmol) in dry ethanol (3 mL) was heated at reflux for 10 min, cooled to room temperature, and concentrated in vacuo. The resulting residue was suspended in dichloromethane (3 mL) followed by the addition of N,N-diisopropylethylamine (105 μL, 0.6 mmol) and thiophene-2-carbonyl chloride (34 μL, 0.32 mmol). The reaction mixture was maintained at room temperature overnight, then concentrated in vacuo. The resulting residue was dissolved in DMSO (1.5 mL) and subjected to HPLC purification (Method Y). The resulting free amine was dissolved in MeOH (1 mL) and 1M HCl/ether (50 mL) was added. The precipitate was filtered and dried in vacuo to provide the title compound (72 mg) as an off-white solid as the hydrochloride salt. LC/MS (ESI) m/z 472.3 [M+H]. HPLC retention time (Method A)=2.72 min.

reactant | 3,4-(ethylenedioxy)phenacyl bromide | 0.3 mmol, 77 mg | C1OC=2C=C(C(CBr)=O)C=CC2OC1 | C10H9BrO3
reactant | (3-morpholin-4-yl-propyl)-thiourea | 0.3 mmol, 61 mg | N1(CCOCC1)CCCNC(=S)N | C8H17N3OS
reactant | N,N-diisopropylethylamine | 0.6 mmol, 105 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thiophene-2-carbonyl chloride | 0.32 mmol, 34 μL | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-(4-(2,3-Dihydrobenzo[b][1,4]dioxin-6-yl)thiazol-2-yl)-N-(3-morpholinopropyl)thiophene-2-carboxamide | 72 mg | O1C2=C(OCC1)C=C(C=C2)C=2N=C(SC2)N(C(=O)C=2SC=CC2)CCCN2CCOCC2 | C23H25N3O4S2
